US05411973
To a stirred solution of 1,4-dibromobenzene (70 g) in diethyl ether (200 mL) was added magnesium turnings (8.66 g) at ambient temperature under an N2 atmosphere. After 15 minutes the mixture began to reflux. The reaction mixture was stirred for 5 hours. Stirring was then ceased and after some solids settled to the bottom, the solution was transferred via a cannula into a stirred mixture of 2-cyanopyridine (34.32 g) in diethyl ether (100 mL) at 0° C. The mixture was stired overnight. The mixture was then cooled to 0° C. and 200 mL aqueous 4N HCl was added. The layers were separated. The ether layer was extracted 2×150 mL 4N HCl . The acidic layers were combined and basified with sodium carbonate. The resultant mixture was extracted with 3×300 mL ether. The ether layers were combined, dried over MgSO04, filtered and concentrated by evaporation to afford 44 g of crude material. This was stored at -15° C. overnight and was then distilled at 50 millitorr at 130° C., and redistilled to yield 24.74 g of 4-[2-pyridylcarbonyl]bromobenzene as a white solid. (300 MHz, DMSO): 7.67-7.72 (m,1, aromatic), 7.75-7.79 (d,2, aromatic), 7.91-7.96 (d,2, aromatic), 8.01-8.12 (m,2, aromatic), 8.72-8.74 (d,1, aromatic); MS: (CI) 264 (M+1).

reactant | 1,4-dibromobenzene | 70 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | magnesium | 8.66 g | [Mg] | Mg
reactant | 2-cyanopyridine | 34.32 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | HCl | 4N | Cl | ClH
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 4-[2-pyridylcarbonyl]bromobenzene | 24.74 g | N1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)Br | C12H8BrNO
